US06610880B1
Phenoxyacetyl 1-Methyl-1-propyl Carbonate
To a well-stirred reaction vessel equipped with a thermometer and a pH electrode were added 100 ml of diethyl ether, 40 ml of a 25 wt % aqueous NaCl solution, and 0.4 g of Arquad CB50. After cooling the reaction mixture to 5-10° C., 0.066 mole of phenoxy acetic acid was added. The pH was adjusted to a value between 6 and 7 using a 25 wt % aqueous NaOH solution. Then, 0.066 mole of sec-butyl chloroformate was dosed within 5 min at 5-10° C. During this time and a post-reaction time of 40 min at 5-10° C. the pH was kept at 6-7. The reaction mixture was allowed to separate. After removal of the diethyl ether, 15 g of phenoxyacetyl 1-methyl-1-propyl carbonate having a content of 90% were obtained in a yield of 81%.

reactant | NaCl | [Na+].[Cl-]
reactant | phenoxy acetic acid | 0.066 mole | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | NaOH | [OH-].[Na+]
reactant | sec-butyl chloroformate | 0.066 mole | ClC(=O)OC(C)CC | C5H9ClO2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | Phenoxyacetyl 1-Methyl-1-propyl Carbonate | yield of 81% | C(OC(COC1=CC=CC=C1)=O)(OC(CC)C)=O | C13H16O5
